US08106070B2
N-methylmorpholine (0.37 mL, 3.32 mmol) was added to an ambient temperature solution of 2-{4-[(2-carboxy-5-oxopyrrolidin-2-yl)methyl]phenyl}-5-fluoropyridinium chloride/sodium chloride (1:3) (388 mg, 0.74 mmol), 1-amino-4,4-dimethylhexan-2-ol (214 mg, 1.48 mmol), 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride (170 mg, 0.89 mmol) and 1-hydroxybenzotriazole (136 mg, 0.89 mmol) in methylene chloride (5 mL). After stirring at ambient temperature overnight, the reaction mixture was poured into ethyl acetate and washed successively with saturated aqueous sodium bicarbonate and brine, dried (sodium sulfate) and concentrated in vacuo to afford 2-[4-(5-fluoropyridin-2-yl)benzyl]-N-(2-hydroxy-4,4-dimethylhexyl)-5-oxopyrrolidine-2-carboxamide which was used in the subsequent step without further purification.

reactant | N-methylmorpholine | 3.32 mmol, 0.37 mL | CN1CCOCC1 | C5H11NO
reactant | 2-{4-[(2-carboxy-5-oxopyrrolidin-2-yl)methyl]phenyl}-5-fluoropyridinium chloride sodium chloride | 0.74 mmol, 388 mg | [Cl-].C(=O)(O)C1(NC(CC1)=O)CC1=CC=C(C=C1)C1=[NH+]C=C(C=C1)F.[Cl-].[Na+]
reactant | 1-amino-4,4-dimethylhexan-2-ol | 1.48 mmol, 214 mg | NCC(CC(CC)(C)C)O | C8H19NO
reactant | 1-[3-(dimethylamino) propyl]-3-ethylcarbodiimide hydrochloride | 0.89 mmol, 170 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.89 mmol, 136 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(5-fluoropyridin-2-yl)benzyl]-N-(2-hydroxy-4,4-dimethylhexyl)-5-oxopyrrolidine-2-carboxamide | FC=1C=CC(=NC1)C1=CC=C(CC2(NC(CC2)=O)C(=O)NCC(CC(CC)(C)C)O)C=C1 | C25H32FN3O3
